US05681833
4 : 1-(tert-Butyloxycarbonyl)-2-(3-nitrophenyl) amino imidazole
To a stirred solution of 2-(3-nitrophenyl)aminoimidazole (412 mg) in anhydrous dichloromethane (5 ml) and anhydrous tetrahydrofuran (3 ml), under nitrogen, was added a solution of di-tert-butyl dicarbonate (528 mg) in dry tetrahydrofuran (2 ml). The solution was stirred at room temperature for 4 h whereupon more of a solution of di-tert-butyl dicarbonate (118 mg) in anhydrous tetrahydrofuran (2 ml) was added. The solution was stirred for 2 days then diluted with dichloromethane (20 ml) and washed with water (20 ml). The organic phase was separated, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel, using petrol (60/80):ethyl acetate (6:1) as the eluant to yield the title compound (611 mg) as a solid. 1H NMR (360 MHz, CDCl3) δ1.65 (9H, s), 6.76 (1H, d, J=1.9 Hz), 6.97 (1H, d, J=1.9 Hz), 7.47 (1H, t, J=8.1 Hz), 7.84 (1H, dd, J=8.1 and 1.8 Hz), 8.03 (1H, dd, J=8.1 and 1.9 Hz), 8.64 (1H, t, J=1.8 Hz), 9.36 (1H, brs). MS (CI, NH3) 304 (M+).

reactant | 2-(3-nitrophenyl)aminoimidazole | 412 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC=1NC=CN1 | C9H8N4O2
reactant | di-tert-butyl dicarbonate | 528 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 118 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(tert-Butyloxycarbonyl)-2-(3-nitrophenyl) amino imidazole | 611 mg | C(C)(C)(C)OC(=O)N1C(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H16N4O4
